US07348323B2
Step 4: 5-(4-Cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Intermediate 1)
A mixture of 0.65 g (1.9 mmol) 5-(4-cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester and LiOHxH2O in THF/methanol/water was stirred at room temperature for 16 h. After evaporation of all volatiles the residue was taken up in water and HCl conc. was added. After evaporation the residue was treated with diethyl ether filtered, washed again with diethyl ether and dried to yield 0.46 g (69%) of the title compound as orange solid.

reactant | 5-(4-cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | 1.9 mmol, 0.65 g | C(C)OC(=O)C1=CC=2C(=CN=C(C2)N2CCN(CC2)C2CCCC2)N1 | C19H26N4O2
solvent | THF methanol water | C1CCOC1.CO.O
product | 5-(4-Cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 0.46 g, 69% | C1(CCCC1)N1CCN(CC1)C=1C=C2C(=CN1)NC(=C2)C(=O)O | C17H22N4O2
